US04036977
1-(p-Nitrophenoxy)-bicyclo[2,2,2]octane
A mixture of 10 g. of [2,2,2]bicyclo-1-octanol and 3.37 g. of 56% sodium hydride in mineral oil in 163 ml. each of benzene and DMF was heated at gentle reflux for 45 min. The mixture was cooled to room temperature and 12.4 g. of p-chloronitrobenzene was added. The mixture was again brought to reflux. Following 15 hrs heating the dark mixture was allowed to cool and washed thoroughly with water and then brine. The residue which remained when the solution was taken to dryness was chromatographed on 1 l. of silica gel. Elution with 20% benzene in Skellysolve B afforded 2.38 g. of recovered chloronitrobenzene; elution with benzene gave crude product and 1:1 benzene ethyl acetate afforded recovered carbinol.

reactant | sodium hydride | [H-].[Na+]
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | p-chloronitrobenzene | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | chloronitrobenzene | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | DMF | CN(C)C=O | C3H7NO
product | 1-(p-Nitrophenoxy)-bicyclo[2,2,2]octane | [N+](=O)([O-])C1=CC=C(OC23CCC(CC2)CC3)C=C1 | C14H17NO3
